US06011028
methyl hexahydro-2-imino-b-(4-methylphenyl)-1H-azepine-3-propanoate, monohydrochloride;
methyl 3-[4-(trifluoromethyl)phenyl]propenoate methyl hexahydro-7-imino-b-(4-(trifluoromethyl)phenyl]-1H-azepine-2-propanoate, monohydrochloride;

reactant | methyl 3-[4-(trifluoromethyl)phenyl]propenoate methyl hexahydro-7-imino-b-(4-(trifluoromethyl)phenyl]-1H-azepine-2-propanoate | COC(CC(C1NC(CCCC1)=N)C1=CC=C(C=C1)C(F)(F)F)=O.FC(C1=CC=C(C=C1)C=CC(=O)OC)(F)F
reactant | monohydrochloride | Cl | ClH
product | methyl hexahydro-2-imino-b-(4-methylphenyl)-1H-azepine-3-propanoate, monohydrochloride | Cl.N=C1NCCCCC1C(CC(=O)OC)C1=CC=C(C=C1)C | InChI=1S/C17H24N2O2.ClH/c1-12-6-8-13(9-7-12)15(11-16(20)21-2)14-5-3-4-10-19-17(14)18;/h6-9,14-15H,3-5,10-11H2,1-2H3,(H2,18,19);1H
